US07893088B2
A suspension of 6-methoxy-7-methyl-2H-isoquinolin-1-one (5 g, 26.45 mmol) was treated at room temperature with phosphorus oxychloride (22 ml). The mixture was heated at 100° C. for 1 h with stirring then concentrated in vacuo to give a residue. Toluene was added to the residue which was further concentrated in-vacuo to give a residue which was taken up in toluene and slowly added to saturated aqueous sodium carbonate. The toluene layer was then separated. The aqueous layer was further mixed and extracted with toluene. The combined toluene layers were dried (MgSO4) and concentrated in vacuo to give a residue. The residue was triturated with diethyl ether then filtered and dried in vacuo to give 1-chloro-6-methoxy-7-methyl-isoquinoline (4 g, 19.32 mmol).

reactant | 6-methoxy-7-methyl-2H-isoquinolin-1-one | 26.45 mmol, 5 g | COC=1C=C2C=CNC(C2=CC1C)=O | C11H11NO2
reactant | phosphorus oxychloride | 22 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-chloro-6-methoxy-7-methyl-isoquinoline | 19.32 mmol, 4 g | ClC1=NC=CC2=CC(=C(C=C12)C)OC | C11H10ClNO
